US04507496
29.2 g (0.2 mol) of 2-chloromethylene-3,3-dimethyltetrahydrofuran, in 100 ml of formic acid, are heated at 60° for 5 hours. Fractional distillation produces 34 g (0.174 mol, 87%) of 1-chloro-3,3-dimethyl-5-formyloxypentan-2-one with a boiling point of 110°/0.2.

reactant | 2-chloromethylene-3,3-dimethyltetrahydrofuran | 0.2 mol, 29.2 g | ClC=C1OCCC1(C)C | C7H11ClO
reactant | formic acid | 100 ml | C(=O)O | CH2O2
product | 1-chloro-3,3-dimethyl-5-formyloxypentan-2-one | 0.174 mol, 34 g, 87% | ClCC(C(CCOC=O)(C)C)=O | C8H13ClO3
